US09163027B2
2-{[2-(cyclohexyloxy)ethyl]sulfanyl}-5,7-dimethyl-[1,2,4-]triazolo[1,5-a]pyrimidine
The title compound was prepared according to the experimentals described for Example 1 above from 5,7-dimethyl-[1,2,4]triazolo[1,5-a]pyrimidine-2-thiol and 2-bromoethoxy cyclohexane in 78% yield; EM (calc.): 306.2; MS (ESI) m/e: 307.2 (M+H)+.

reactant | 5,7-dimethyl-[1,2,4]triazolo[1,5-a]pyrimidine-2-thiol | CC1=NC=2N(C(=C1)C)N=C(N2)S | C7H8N4S
reactant | 2-bromoethoxy cyclohexane | BrCCOC1CCCCC1 | C8H15BrO
product | 2-{[2-(cyclohexyloxy)ethyl]sulfanyl}-5,7-dimethyl-[1,2,4-]triazolo[1,5-a]pyrimidine | 78% yield | C1(CCCCC1)OCCSC1=NN2C(N=C(C=C2C)C)=N1 | C15H22N4OS
